US05523458
Synthesis of (2S)-2-(N,N-dibenzylamino)-5-acetylamino-1,6-diphenyl-4-hexen-3-one
(2S)-2-(N,N-dibenzylamino)-5-amino-1,6-diphenyl-4-hexene-3-one (100.0 g, 214.1 mmol) was dissolved in toluene (500 ml), to which pyridine (10 ml, 124.3 mmol) was added under a nitrogen stream. Acetyl chloride (25.7 g, 321.1 mmol) was slowly added to the resultant mixture while chilling with ice water so as not to raise the temperature above 10° C. The reaction mixture was further stirred at 50° C. for 5 hours and 25° C. for 16 hours. The mixture was then washed twice with a small amount of a 10% aqueous solution of sodium carbonate and with an aqueous sodium chloride, and dried over sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting crude product was recrystallized from methanol (1000 ml), thereby obtaining the title compound (97.5 g, 89.4%) as pale yellow crystals.

reactant | (2S)-2-(N,N-dibenzylamino)-5-amino-1,6-diphenyl-4-hexene-3-one | 214.1 mmol, 100.0 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H](CC1=CC=CC=C1)C(C=C(CC1=CC=CC=C1)N)=O | C32H32N2O
reactant | pyridine | 124.3 mmol, 10 ml | N1=CC=CC=C1 | C5H5N
reactant | Acetyl chloride | 321.1 mmol, 25.7 g | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | (2S)-2-(N,N-dibenzylamino)-5-acetylamino-1,6-diphenyl-4-hexen-3-one | 97.5 g, 89.4% | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H](CC1=CC=CC=C1)C(C=C(CC1=CC=CC=C1)NC(C)=O)=O | C34H34N2O2
